US04097487
By following general method C using 1.7 g. of 5-chloro-2-methoxy-4-methylaminobenzoic acid and 1.4 g. of 3-amino-1-benzylpyrrolidine, 2.1 g. of N-(1-benzyl-3-pyrrolidinyl)-5-chloro-2-methoxy-4-methylaminobenzamide hydrochloride was obtained.

reactant | 5-chloro-2-methoxy-4-methylaminobenzoic acid | ClC=1C(=CC(=C(C(=O)O)C1)OC)NC | C9H10ClNO3
reactant | 3-amino-1-benzylpyrrolidine | NC1CN(CC1)CC1=CC=CC=C1 | C11H16N2
product | N-(1-benzyl-3-pyrrolidinyl)-5-chloro-2-methoxy-4-methylaminobenzamide hydrochloride | Cl.C(C1=CC=CC=C1)N1CC(CC1)NC(C1=C(C=C(C(=C1)Cl)NC)OC)=O | InChI=1S/C20H24ClN3O2.ClH/c1-22-18-11-19(26-2)16(10-17(18)21)20(25)23-15-8-9-24(13-15)12-14-6-4-3-5-7-14;/h3-7,10-11,15,22H,8-9,12-13H2,1-2H3,(H,23,25);1H
